US06133271
With the procedure of Example 1, the reaction of 3,4-methylenedioxyphenethylamine with 4-chloro-2-(pyridin-3-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-3-yl)-4-(3,4-methylenedioxyphenethylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 4-chloro-2-(pyridin-3-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C=1C=NC=CC1)SC(=C2)CC | C13H10ClN3S
product | 2-(pyridin-3-yl)-4-(3,4-methylenedioxyphenethylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine | N1=CC(=CC=C1)C=1N=C(C2=C(N1)SC(=C2)CC)NCCC2=CC1=C(C=C2)OCO1 | C22H20N4O2S
